US04080457
Preparation of 4-Methyl-2-(3-Pyridyl)-5-Thiazolecarboxylic Acid
A solution of sodium hydroxide (22 g., 0.55 mole) in water (300 ml.) was mixed with a solution of ethyl 4-methyl-2-(3-pyridyl)-5-thiazolecarboxylate (124 g., 0.50 mole) in 95% ethanol (150 ml.). The mixture was heated and stirred for about ten minutes on a steam bath, and then allowed to stand for one hour without further heating. When the ice-cooled reaction mixture was neutralized with dilute hydrochloric acid and acidified with acetic acid, a thick precipitate of finely divided white solid was obtained. The solid was collected by filtration, washed thoroughly with water, and dried in an oven at 110° C. The product (106 g., 96% yield) melted with decomposition at 249°-250° C.

reactant | sodium hydroxide | 0.55 mole, 22 g | [OH-].[Na+]
reactant | ethyl 4-methyl-2-(3-pyridyl)-5-thiazolecarboxylate | 0.50 mole, 124 g | CC=1N=C(SC1C(=O)OCC)C=1C=NC=CC1 | C12H12N2O2S
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 300 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-Methyl-2-(3-Pyridyl)-5-Thiazolecarboxylic Acid | 96% yield | CC=1N=C(SC1C(=O)O)C=1C=NC=CC1 | C10H8N2O2S
